US05254595
Following the procedure described in Example 27, but starting from 2-acetyl-7-(2,3-epoxypropoxy)benzofuran (23.2 g), obtained from 2-acetyl-7- hydroxybenzofuran and epichlorohydrin according to the teaching of Belgian Patent 783,440, and 2-aminotetralin (14.81 g) in ethanol (120 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-acetylbenzofuran-7-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 24 wherein Z is acetyl and the chain bridges position 4 of the Ar group to position 2 of the tetralin moiety).

reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-acetylbenzofuran-7-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=CC=CC=2C=C(OC21)C(C)=O)O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.81 g | NC1CC2=CC=CC=C2CC1 | C10H13N
